US08039474B2
a) (±)-6-Cyano-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid methyl-phenyl-amide
A stirred solution of 4-oxo-cyclohexanecarboxylic acid methyl-phenyl-amide (50 mg, 0.22 mmol) and (4-cyanophenyl)-hydrazine hydrochloric acid salt (36.5 mg, 0.22 mmol) in glacial AcOH (1 ml) is heated to reflux for 1 h. At rt, two drops of conc. H2SO4 are added and the reaction mixture is again heated to reflux for another 1 h, then cooled to rt and poured into 5% aqueous NaOAc. The resulting precipitate is filtered, rinsed several times with H2O and dried under high vacuum providing pure subtitle compound (35 mg) in 49% yield as a white solid. tR (LC-4) 1.06 min; ESI-MS (positive ion): m/z 329.96 [M]+ (calcd 329.40 for C21H19N3O). 1H-NMR (CDCl3): 2.12 (m, 2H); 2.53 (m, 1H); 2.73 (m, 3H); 2.93 (m, 1H); 3.34 (s, 3H); 7.25 (m, 3H); 7.32 (m, 2H); 7.41 (m, 2H), 7.71 (s, 1H); 8.04 (br s, 1H).

reactant | 4-oxo-cyclohexanecarboxylic acid methyl-phenyl-amide | 0.22 mmol, 50 mg | CN(C(=O)C1CCC(CC1)=O)C1=CC=CC=C1 | C14H17NO2
reactant | (4-cyanophenyl)-hydrazine hydrochloric acid salt | 0.22 mmol, 36.5 mg | Cl.C(#N)C1=CC=C(C=C1)NN
reactant | NaOAc | CC(=O)[O-].[Na+]
solvent | AcOH | 1 ml | CC(=O)O | C2H4O2
catalyst | H2SO4 | two drops | OS(=O)(=O)O | H2O4S
product | (±)-6-Cyano-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid methyl-phenyl-amide | 35 mg, 49% yield | CN(C(=O)C1CCC=2NC3=CC=C(C=C3C2C1)C#N)C1=CC=CC=C1 | C21H19N3O
